US08242174B2
(R)-2-(4-Fluoro-3,5-dimethyl-phenylamino)-6-(3-nitro-benzenesulfonylamino)-hexanoic acid methyl ester (Intermediate C4)
To a solution of (R)-6-amino-2-(4-fluoro-3,5-dimethyl-phenylamino)-hexanoic acid methyl ester (0.200 g, 0.709 mmol) and 3-nitro-benzenesulfonyl chloride (0.157 g, 0.709 mmol) in 10 mL of dichloromethane, was added triethylamine (0.5 mL, 3.544 mmol). After stirring at room temperature under N2 for 16 h, the reaction mixture was concentrated under reduced pressure. The product was isolated by Flash chromatography (silica gel) eluting with 20-50% ethyl acetate/hexanes to give the title compound as light yellow semi-solid (0.128 g, 39% yield). LC-MS: tR=9.5 min; m/z 468 (M+H)+.

reactant | (R)-6-amino-2-(4-fluoro-3,5-dimethyl-phenylamino)-hexanoic acid methyl ester | 0.709 mmol, 0.200 g | COC([C@@H](CCCCN)NC1=CC(=C(C(=C1)C)F)C)=O | C15H23FN2O2
reactant | 3-nitro-benzenesulfonyl chloride | 0.709 mmol, 0.157 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | triethylamine | 3.544 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (R)-2-(4-Fluoro-3,5-dimethyl-phenylamino)-6-(3-nitro-benzenesulfonylamino)-hexanoic acid methyl ester | 0.128 g, 39% yield | COC([C@@H](CCCCNS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])NC1=CC(=C(C(=C1)C)F)C)=O | C21H26FN3O6S
